US05663410
In a first step, p-chlorobenzonitrile is reacted with 2,2,3,3-tetrafluoropropanol in the presence of bases, for example sodium hydride, with exchange of the p-chlorine atom to give 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile. The second step is to reduce the 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile by metal hydrides, for example diisobutylaluminum hydride, 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde being formed. The 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde is reacted stereoselectively with ethyl diethylphosphonoacetate in a third reaction step to give ethyl (E)-4-(2,2,3,3-tetrafluoropropoxy)cinnamate.

reactant | 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile | FC(COC1=CC=C(C#N)C=C1)(C(F)F)F | C10H7F4NO
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde | FC(COC1=CC=C(C=O)C=C1)(C(F)F)F | C10H8F4O2
reactant | ethyl diethylphosphonoacetate | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
product | ethyl (E)-4-(2,2,3,3-tetrafluoropropoxy)cinnamate | FC(COC1=CC=C(/C=C/C(=O)OCC)C=C1)(C(F)F)F | C14H14F4O3
